US05925662
10.2. 5-Amino-2-(3,3,3-trifluoropropyl)benzofuran
A mixture of 2.4 g (9.2 mmol) of 2-(3,3,3-trifluoropropyl)-5-nitrobenzofuran, 0.65 g (17 mmol) of sodium borohydride, 45 mg of Adogen 464 and 0.38 g of 10% palladium on carbon containing 50% of water is stirred for 5 hours in 95 ml of dichloromethane and 48 ml of water, then it is filtered on silica and the silica is rinsed with ethanol. The filtrate is then concentrated under reduced pressure and coevaporated with toluene. After chromatography of the residue on a silica column using a 0-30% mixture of ethyl acetate in cyclohexane, 2.0 g of product are obtained.

reactant | 2-(3,3,3-trifluoropropyl)-5-nitrobenzofuran | 9.2 mmol, 2.4 g | FC(CCC=1OC2=C(C1)C=C(C=C2)[N+](=O)[O-])(F)F | C11H8F3NO3
reactant | sodium borohydride | 17 mmol, 0.65 g | [BH4-].[Na+]
reactant | water | O | H2O
catalyst | Adogen 464 | 45 mg | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
catalyst | palladium on carbon | 0.38 g | [Pd] | Pd
solvent | dichloromethane | 95 ml | ClCCl | CH2Cl2
product | 5-Amino-2-(3,3,3-trifluoropropyl)benzofuran | NC=1C=CC2=C(C=C(O2)CCC(F)(F)F)C1 | C11H10F3NO
